US07582644B2
i) 6-Amino-2-[(2,3-dichlorobenzyl)thio]pyrimidin-4(3H)-one
The subtitle compound was prepared according to the procedure of Example 1 step i) treating 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate (2.22 g) with 2,3-dichlorobenzyl bromide (3.30 g) to afford the subtitle compound as a white solid. Yield: 3.25 g.

reactant | 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate | 2.22 g | O.NC1=NC(=NC(=C1)O)S
reactant | 2,3-dichlorobenzyl bromide | 3.30 g | ClC1=C(CBr)C=CC=C1Cl | C7H5BrCl2
product | 6-Amino-2-[(2,3-dichlorobenzyl)thio]pyrimidin-4(3H)-one | NC1=CC(NC(=N1)SCC1=C(C(=CC=C1)Cl)Cl)=O | C11H9Cl2N3OS
